US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-(dimethylamino)acetamide
2-(dimethylamino)-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature for 3 hours. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and purified by preparatory HPLC. (0.023 g, 13% yield over 2 steps): 1H NMR (CD3OD) δ 8.7 (d, 1H), 8.32 (br s, 1H), 8.17 (t, 1H), 8.05 (dd, 1H), 7.7 (t, 2H), 7.6 (dd, 1H), 7.4 (t, 1H), 3.18 (s, 2H), 2.38 (s, 6H); ES-MS (m/z) 362 [M+H]+.

reactant | 2-(dimethylamino)-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide | CN(CC(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)C | C43H41N7O2
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-(dimethylamino)acetamide | 13% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CN(C)C)=O | C19H19N7O
